US07304085B2
1. 3-Methyl-benzoic acid tert-butyl ester
4-Bromo-3-methyl-benzoic acid tert-butyl ester (0.39 g, 1.438 mmol) was hydrogenated over 10% Pd—C (0.5 g) under H2 (50 psi) in EtOAc—MeOH (4:1, 20 mL) for 5 h. After filtration through Celite, filtrate was evaporated to dryness. Yield: 97%. MS (ESI) 193.28 (M+H+).

reactant | 4-Bromo-3-methyl-benzoic acid tert-butyl ester | 1.438 mmol, 0.39 g | C(C)(C)(C)OC(C1=CC(=C(C=C1)Br)C)=O | C12H15BrO2
solvent | EtOAc MeOH | 20 mL | CCOC(=O)C.CO
catalyst | Pd—C | 0.5 g | [Pd] | Pd
product | 3-Methyl-benzoic acid tert-butyl ester | Yield: 97% | C(C)(C)(C)OC(C1=CC(=CC=C1)C)=O | C12H16O2
